US08293913B2
1.4 8-(Hexahydropyrrolo[3,4-b]pyrrol-5(1H)-yl)-3-(phenylsulfonyl)quinoline hydrochloride
A solution of tert-butyl 5-(3-(phenylsulfonyl)quinolin-8-yl)hexahydropyrrolo[2,3-c]pyrrole-1(2H)-carboxylate (92 mg, 0.19 mmol) in CH2Cl2 (5 ml) was treated with hydrochloric acid (4M in dioxane, 2 ml) at 0° C. and then stirred at 50° C. for 16 h. After concentration, the product was washed with EtOAc and dried in vacuo to give the title compound (80 mg, 100% as a white solid.

reactant | tert-butyl 5-(3-(phenylsulfonyl)quinolin-8-yl)hexahydropyrrolo[2,3-c]pyrrole-1(2H)-carboxylate | 0.19 mmol, 92 mg | C1(=CC=CC=C1)S(=O)(=O)C=1C=NC2=C(C=CC=C2C1)N1CC2C(C1)CCN2C(=O)OC(C)(C)C | C26H29N3O4S
reactant | hydrochloric acid | 4M, 2 ml | Cl | ClH
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 8-(Hexahydropyrrolo[3,4-b]pyrrol-5(1H)-yl)-3-(phenylsulfonyl)quinoline hydrochloride | Cl.N1C2C(CC1)CN(C2)C=2C=CC=C1C=C(C=NC21)S(=O)(=O)C2=CC=CC=C2 | InChI=1S/C21H21N3O2S.ClH/c25-27(26,17-6-2-1-3-7-17)18-11-15-5-4-8-20(21(15)23-12-18)24-13-16-9-10-22-19(16)14-24;/h1-8,11-12,16,19,22H,9-10,13-14H2;1H
